US07462735B2
6-[4-(2-hydroxybenzoylamino)benzoylamino]hexanoic acid. (compound 2)
To a solution of 2.81 g (10.64 mmol) of methyl 6-(4-aminobenzoylamino)hexanoate dissolved in 50 ml of acetonitrile, very slowly add 1.42 g (9.10 mmol) of 2-hydroxybenzoyl chloride dissolved in 5 ml of acetonitrile. Then add 0.92 g (9.10 mmol) of triethylamine and keep the reaction mixture at room temperature for 24 hours. Eliminate the solvent at low pressure, add 30 ml of 10% NaOH to the crude product and continue stirring the mixture until the solid has completely disappeared. Immediately acidify with concentrated hydrochloric acid, filter the resulting solid and wash several times with water. Purify the reaction product by recrystallization (EtOH/H2O). This yields 1.11 g (33%) of 6-[4-(2-hydroxybenzoylamino)benzoylamino]hexanoic acid as a white solid.

reactant | methyl 6-(4-aminobenzoylamino)hexanoate | 10.64 mmol, 2.81 g | NC1=CC=C(C(=O)NCCCCCC(=O)OC)C=C1 | C14H20N2O3
reactant | 2-hydroxybenzoyl chloride | 9.10 mmol, 1.42 g | OC1=C(C(=O)Cl)C=CC=C1 | C7H5ClO2
reactant | triethylamine | 9.10 mmol, 0.92 g | C(C)N(CC)CC | C6H15N
reactant | NaOH | 30 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
product | 6-[4-(2-hydroxybenzoylamino)benzoylamino]hexanoic acid | OC1=C(C(=O)NC2=CC=C(C(=O)NCCCCCC(=O)O)C=C2)C=CC=C1 | C20H22N2O5
